US06777418B2
To a solution of 12.3 g (49.8 mmol) of 2-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene in 100 mL of carbon tetrachloride at 0° C. was added a trace of iron powder followed by a solution of 8.76 g (54.8 mmol) of bromine in 80 mL of carbon tetrachloride. After 4.5 hours at 0° C. the reaction mixture was warmed to room temperature. After 3 hours at room temperature, the reaction mixture was poured into ice water and the mixture was extracted with dichloromethane. The organic fraction was washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (30% ethyl acetate/hexane) to give 10.2 g (63%) of 2-bromo-3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene. (M+=324).

reactant | 2-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 49.8 mmol, 12.3 g | OCCCC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H26O
reactant | bromine | 54.8 mmol, 8.76 g | BrBr | Br2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | [Fe] | Fe
product | 2-bromo-3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 10.2 g, 63% | BrC1=CC=2C(CCC(C2C=C1CCCO)(C)C)(C)C | C17H25BrO
